US07138489B2
A Boc-Gly-Ser(tBu)-Ser(Trt)-Phe-Leu-Ser(tBu)-Pro-2-chlorotrityl resin was constructed on a prolyl-2-chlorotrityl resin (466 mg, 0.25 mmol, manufactured by Novabiochem) by repeating successively introduction of Fmoc-amino acid with HBTU and de-Fmoc with piperidine to introduce Boc-Gly into a N-terminal residue using a peptide automatic synthesizer. This resin was treated with 1% TFA, 5% TIPS/dichloromethane for 30 minutes, to perform removal of a Trt group and cleavage from the resin at the same time. After the resin was filtered, dichloromethane was distilled off under reduced pressure to concentrate the material, and Et2O was added to obtain precipitates, which were dried to obtain 165 mg of Boc-Gly-Ser(tBu)-Ser-Phe-Leu-Ser(tBu)-Pro-OH as white precipitates. Then, phenacyl bromide (40 mg, 1.1 equivalents) and triethylamine (20 mg, 1.1 equivalents) were added to react them for 2 hours in about 3 mL of DMF. After the reaction, the reaction solution was placed into an about 5-fold amount of ethyl acetate, and the mixture was washed with water and an aqueous saturated sodium chloride solution, dried over sodium sulfate, filtered, and concentrated. The precipitates formed upon addition of Et2O were dried to obtain Boc-Gly-Ser(tBu)-Ser-Phe-Leu-Ser(tBu)-Pro-OPac as white precipitates. Then, octanoic acid (18.2 mg, 1.1 equivalents), EDC.HCl (26.4 mg, 1.2 equivalents) and DMAP (1.4 mg, 0.1 equivalent) were added to react them overnight in about 2 mL of DMF. The reaction solution was placed into an about 5-fold amount of ethyl acetate, washed with water and an aqueous saturated sodium chloride solution, sodium sulfate was added to dry it, and this was filtered, concentrated, Et2O was added to obtain 144 mg of Boc-Gly-Ser(tBu)-Ser(Octanoyl)-Phe-Leu-Ser(tBu)-Pro-OPac as white precipitates. Then, 1.5 mL of acetic acid and zinc powder (163 mg, 20 equivalents) were added to react them for 1 hour, this was filtered, and cold water was added to obtain precipitates, which were washed with Et2O and dried. 65 mg of Boc-Gly-Ser(tBu)-Ser(Octanoyl)-Phe-Leu-Ser(tBu)-Pro-OH was obtained as white precipitates. The product was dissolved in about 2 mL of a mixed solution of aqueous acetic acid and acetonitrile, the solution was added to YMC-Pack ODS-A (20 mm×250 mm), and this was eluted with a linear gradient (flow rate: 10 mL/min) of acetonitrile 40% to 80% in 0.1% trifluoroacetic acid for 60 minutes. The desired fractions were taken, and lyophilized to obtain 50 mg of the desired product.

reactant | Boc-Gly-Ser(tBu)-Ser(Trt)-Phe-Leu-Ser(tBu)-Pro 2-chlorotrityl resin | N(CC(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C.C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3Cl)Cl
reactant | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | Boc-Gly | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | Boc-Gly-Ser(tBu)-Ser-Phe-Leu-Ser(tBu)-Pro-OH | 165 mg | N(CC(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C44H71N7O13
